US07319108B2
4-(3-Dimethylaminopyrrolidin-1-yl)-N-hydroxybenzamidine
A mixture of 3-(dimethylamino)pyrrolidine (1.1 g), p-fluorobenzonitrile (1.2 g), potassium carbonate (2.8 g) and acetonitrile (15 ml) was stirred at 80° C. for 12 h. The reaction solution was then filtered, and the precipitate was washed with acetonitrile, the solvent was removed in vacuo, and the residue was taken up again in ethyl acetate. The ethyl acetate phase was washed twice with water and then dried over sodium sulfate, and the solvent was removed in vacuo. The product obtained in this way was dissolved in abs. ethanol (48.7 ml), and hydroxylamine (1.4 ml) was added to the solution. The reaction mixture was heated under reflux for 12 h. The precipitate obtained after cooling the reaction solution was filtered off and washed with a little ethanol.

reactant | 3-(dimethylamino)pyrrolidine | 1.1 g | CN(C1CNCC1)C | C6H14N2
reactant | p-fluorobenzonitrile | 1.2 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxylamine | 1.4 ml | NO | H3NO
solvent | ethanol | 48.7 ml | C(C)O | C2H6O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 4-(3-Dimethylaminopyrrolidin-1-yl)-N-hydroxybenzamidine | CN(C1CN(CC1)C1=CC=C(C(=N)NO)C=C1)C | C13H20N4O
